US05854229
3 formyloxy-5-androstene-17-one
Following the procedure described by Ringold (H. J. Ringold, et al., J. Am. Chem. Soc. 78, 816, 1956), dehydroepiandrosterone (2.88 g, 10 mmol) dissolved in 85% formic acid (100 mL) is heated at 60° C for 1 h. After cooling, the mixture is poured into iced water and after 16 h, crystals are filtered and dried in vacuo.

reactant | dehydroepiandrosterone | 10 mmol, 2.88 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC=C4[C@@]3(CC[C@@H](C4)O)C | C19H28O2
reactant | water | O | H2O
reactant | formic acid | 100 mL | C(=O)O | CH2O2
product | formyloxy-5-androstene-17-one | C(=O)OC[C@@]12C(CC[C@H]1[C@@H]1CC=C3CCCC[C@]3(C)[C@H]1CC2)=O | C20H28O3
